US08859482B2
In reaction ii, sodium bisulfate is reacted with sodium acetate to produce sodium sulfate and solid acetic acid. In reaction iii., malic acid is reacted with sodium acetate to produce sodium hydrogen diglycolate and solid acetic acid. In reaction iv., fumaric acid is reacted with sodium acetate to produce sodium hydrogen fumarate and solid acetic acid. In reaction v., tartaric acid is reacted with sodium acetate to produce sodium hydrogen tartrate and solid acetic acid. In reaction vi., adipic acid is reacted with sodium acetate to produce sodium hydrogen adipate and solid acetic acid. In reaction vii, sulfamic acid is reacted with sodium acetate to produce sulpher sodium nitrate and solid acetic acid.

reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | sodium hydrogen diglycolate | C(COCC(=O)[O-])(=O)O.[Na+] | InChI=1S/C4H6O5.Na/c5-3(6)1-9-2-4(7)8;/h1-2H2,(H,5,6)(H,7,8);/q;+1/p-1
